US04248859
1-Ethyl-2-methylcycloheptanecarbonyl chloride (1.5 g, 0.007 mole) in ether (10 ml.) was added to a stirred solution of p-anisidine (0.01 mole) in ether (30 ml.). A further quantity of ether (100 ml.) was added and the solution was washed with dilute hydrochloric acid, dilute sodium hydroxide and then with water. The ether solution was dried (MgSO4) and the solvent was removed by distillation. The residue was recrystallised from 40-60 petroleum ether to give N-(p-Methoxyphenyl)-1-ethyl-2-methylcyclohexanecarboxamide, mp. 107°.

reactant | 1-Ethyl-2-methylcycloheptanecarbonyl chloride | 0.007 mole, 1.5 g | C(C)C1(C(CCCCC1)C)C(=O)Cl | C11H19ClO
reactant | p-anisidine | 0.01 mole | COC1=CC=C(C=C1)N | C7H9NO
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(p-Methoxyphenyl)-1-ethyl-2-methylcyclohexanecarboxamide | COC1=CC=C(C=C1)NC(=O)C1(C(CCCC1)C)CC | C17H25NO2
